* C:\Users\ohvic\Documents\ITBA\TCTP2\Ex2\NE5534.asc
Vin N001 0 SINE(0 0.5 10k 0 0 0 20) AC 1 0
R1 N003 0 3.9k
R3 N002 N001 220
XU1 N002 N003 +VCC -VCC Vout NC_01 NC_02 NE5534
R2 Vout N003 330k
V+ +VCC 0 15
V- -VCC 0 -15
;tran 2m
.ac dec 1000 0.01G 1000T
.lib C:\Users\ohvic\Documents\ITBA\TCTP2\Ex2\sloj049\NE5534.301
.backanno
.end
