* C:\Users\ohvic\Documents\ITBA\TCTP2\Ex2\LM833\LM833.asc
Vin N001 0 AC 1 0
R1 N003 0 3.9k tol=5 pwr=0.125
R2 Vout N003 330k tol=5 pwr=0.125
R3 N002 N001 220k tol=5 pwr=0.125
V1 +VCC 0 15
V2 -VCC 0 -15
XU1 N002 N003 +VCC -VCC Vout LM833
.ac dec 50 1k 1Meg
.lib C:\Users\ohvic\Documents\ITBA\TCTP2\Ex2\LM833\Opamps_Comparators_ST.lib
.backanno
.end
